US04599357
The starting material is prepared as follows: The mixture of 50 g of 3-chloropivalic acid, 4.2 g of potassium thioacetate, 1 g of potassium iodide and 200 ml of ethanol is refluxed for 18 hours. It is cooled to room temperature, filtered, the filtrate evaporated and the residue partitioned between 100 ml of water and 200 ml of diethyl ether. The aqueous layer is extracted with 100 ml of diethyl ether, the combined organic layers dried, evaporated and the residue distilled at 150°-155°/3 mm Hg, to yield the 3-acetylthiopivalic acid.

reactant | 3-chloropivalic acid | 50 g | ClCC(C(=O)O)(C)C | C5H9ClO2
reactant | potassium thioacetate | 4.2 g | C(C)(=S)[O-].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-acetylthiopivalic acid | C(C)(=O)CC(C(=S)O)(C)C | C7H12O2S
